US07732461B2
(d) Racemic methyl 3-{(2S)-2-[({[(1,1-dimethylethyl)oxy]carbonyl}amino)methyl]-4-morpholinyl}-2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]propanoate
This compound was prepared from methyl 2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-2-propenoate and 1,1-dimethylethyl[(2R)-2-morpholinylmethyl]carbamate according to the general method of Example 2(d), in 100% yield.

reactant | methyl 2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-2-propenoate | FC=1C=NC2=CC=C(N=C2C1C(C(=O)OC)=C)OC | C13H11FN2O3
reactant | 1,1-dimethylethyl[(2R)-2-morpholinylmethyl]carbamate | CC(C)(C)N(C([O-])=O)C[C@H]1CNCCO1
product | Racemic methyl 3-{(2S)-2-[({[(1,1-dimethylethyl)oxy]carbonyl}amino)methyl]-4-morpholinyl}-2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]propanoate | 100% yield | CC(C)(C)OC(=O)NC[C@H]1CN(CCO1)CC(C(=O)OC)C1=C(C=NC2=CC=C(N=C12)OC)F | C23H31FN4O6
